US07109354B2
a) 4-Amino-3-bromo-5-nitro-benzenesulfonyl chloride
4-Amino-3-bromo-5-nitrobenzenesulfonamide ((U.S. Pat. No. 3,987,199) 1 g, 3.17 mmol) was heated at 95° C. for 3 h in chlorosulfonic acid (10 mL). The solution was cooled then poured onto ice and then filtered. The solid was redissolved in DCM and dried over sodium sulfate. Removal of the solvent yielded the product (960 mg) which was used without further purification.

reactant | 4-Amino-3-bromo-5-nitrobenzenesulfonamide | NC1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)N)Br | C6H6BrN3O4S
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 4-Amino-3-bromo-5-nitro-benzenesulfonyl chloride | 960 mg | NC1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)Cl)Br | C6H4BrClN2O4S
